US09278968B2
To a solution of 1.5 g of 2-methyl-1,3-thiazole in 20 ml of THF was added 5.5 ml of a 2.76 M n-butyllithium/hexane solution at −78° C., followed by stirring for 30 minutes. To the reaction mixture was added dropwise a solution of 2 ml of ethyl 2-oxopropanoate in 10 ml of THF, followed by stirring at −78° C. for 1 hour. To the reaction mixture was added a saturated aqueous ammonium chloride solution, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 1.05 g of ethyl 2-hydroxy-2-(2-methyl-1,3-thiazol-5-yl)propanoate.

reactant | 2-methyl-1,3-thiazole | 1.5 g | CC=1SC=CN1 | C4H5NS
reactant | n-butyllithium hexane | 2.76 M | C(CCC)[Li].CCCCCC
reactant | ethyl 2-oxopropanoate | 2 ml | O=C(C(=O)OCC)C | C5H8O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | ethyl 2-hydroxy-2-(2-methyl-1,3-thiazol-5-yl)propanoate | 1.05 g | OC(C(=O)OCC)(C)C1=CN=C(S1)C | C9H13NO3S
